US09388197B2
A.1.9.3. 5-(3-((tert-Butyldimethylsilyl)oxy)-1-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-4-chlorothiazole
At −78° C., a soln. of n-BuLi in hexanes (2.2 M, 9.6 mL, 21.0 mmol) was added to a soln. of 5-(3-((tert-butyldimethylsilyl)oxy)-1-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-2,4-dichlorothiazole (6.89 g, 16.2 mmol) in THF (125 mL). The mixture was stirred at −78° C. for 45 min, then, quenched by the addition of aq. sat. NaHCO3 and extracted with EtOAc. The comb. org. layers were washed with brine, dried over MgSO4, and conc. in vacuo. Purification by means of CC (2-20% EtOAc/Hept) provided the product as a yellow oil as an isomeric mixture.

reactant | n-BuLi | [Li]CCCC
reactant | 5-(3-((tert-butyldimethylsilyl)oxy)-1-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-2,4-dichlorothiazole | 16.2 mmol, 6.89 g | [Si](C)(C)(C(C)(C)C)OCCC(OC1OCCCC1)C1=C(N=C(S1)Cl)Cl | C17H29Cl2NO3SSi
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | 5-(3-((tert-Butyldimethylsilyl)oxy)-1-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-4-chlorothiazole | [Si](C)(C)(C(C)(C)C)OCCC(OC1OCCCC1)C1=C(N=CS1)Cl | C17H30ClNO3SSi
